US09169221B2
Benzyl 2-hydroxyphenylcarbamate
Benzyl chloroformate (11 mmol, 58% in toluene) was added drop wise to a stirred solution of 2-aminophenol in NaHCO3 (3M, 3.6 mL). The reaction mixture was further stirred for 15 hours at RT. Then the reaction mixture was washed with NaOH (3M, 20 mL) followed by water (20 mL) and diethyl ether (20 ml×3). Concentrated HCl was added to the aqueous part until precipitation of the targeted product as a light yellow solid (70%).

reactant | Benzyl chloroformate | 11 mmol | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 2-aminophenol | NC1=C(C=CC=C1)O | C6H7NO
solvent | NaHCO3 | 3M, 3.6 mL | C(=O)(O)[O-].[Na+]
product | Benzyl 2-hydroxyphenylcarbamate | OC1=C(C=CC=C1)NC(OCC1=CC=CC=C1)=O | C14H13NO3
